US07375099B2
2-Methyl-N-(4-methyl-benzyl)-N′-(1-methyl-2-oxo-5-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-3-yl)-malonamide
The title compound, MS: m/e=468.2 (M+H+), was prepared in analogy to example 16 from 3-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one and 2-methyl-N-(4-methyl-benzyl)-malonamic acid.

reactant | 3-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C16H15N3O
reactant | 2-methyl-N-(4-methyl-benzyl)-malonamic acid | CC(C(=O)O)C(=O)NCC1=CC=C(C=C1)C | C12H15NO3
product | 2-Methyl-N-(4-methyl-benzyl)-N′-(1-methyl-2-oxo-5-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-3-yl)-malonamide | CC(C(=O)NCC1=CC=C(C=C1)C)C(=O)NC1N=C(C2=C(N(C1=O)C)C=CC=C2)C2=CC=CC=C2 | C28H28N4O3
